US04032525
47 g. of crude 5-methyl-2-(4-methylthio-phenoxy)-phenylacetic acid are dissolved in 170 ml. of methanol. 19 ml. of concentrated sulfuric acid are added dropwise with stirring and the mixture is subsequently heated at reflux for 3.5 hours. After cooling, the mixture is diluted with water and extracted several times with benzene. The benzene extracts are washed with water, sodium bicarbonate solution and again with water. After evaporation of the solvent, there remains a residue which is chromatographed on 400 g. of silica gel. By elution with benzene, there is obtained 5-methyl-2-(4-methylthio-phenoxy)-phenylacetic acid methyl ester, which ester is dissolved in 73 ml. of methanol, treated with 18.8 g. of potassium hydroxide and 73 ml. of water and subsequently heated at reflux for 1 hour. Thereafter, the methanol is removed in vacuo and the residue acidified with hydrochloric acid. The mixture is extracted with benzene, the benzene extract washed with water and concentrated in vacuo. The residue is crystallized from cyclohexane, and there is obtained 5-methyl-2-(4-methylthio-phenoxy)-phenylacetic acid having a melting point of 81°-83° C.

reactant | 5-methyl-2-(4-methylthio-phenoxy)-phenylacetic acid | CC=1C=CC(=C(C1)CC(=O)O)SC1=CC=C(C=C1)C | C16H16O2S
reactant | methanol | CO | CH4O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 5-methyl-2-(4-methylthio-phenoxy)-phenylacetic acid methyl ester | COC(CC1=C(C=CC(=C1)C)SC1=CC=C(C=C1)C)=O | C17H18O2S
